US05500453
A solution of 3.14 g of lithium phenyltri-n-butylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of diphenyl(p-methoxybenzyl)oxosulfonium tetrafluoroborate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.25 g of diphenyl(p-methoxybenzyl)oxosulfonium-phenyltri-n-butylborate.

reactant | lithium phenyltri-n-butylborate | 3.14 g | C1(=CC=CC=C1)[B-](CCCC)(CCCC)CCCC.[Li+]
reactant | diphenyl(p-methoxybenzyl)oxosulfonium tetrafluoroborate | 5.00 g | F[B-](F)(F)F.C1(=CC=CC=C1)[S+](=O)(CC1=CC=C(C=C1)OC)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl(p-methoxybenzyl)oxosulfonium phenyltri-n-butylborate | 2.25 g | C1(=CC=CC=C1)[S+](=O)(CC1=CC=C(C=C1)OC)C1=CC=CC=C1.C1(=CC=CC=C1)[B-](CCCC)(CCCC)CCCC | InChI=1S/C20H19O2S.C18H32B/c1-22-18-14-12-17(13-15-18)16-23(21,19-8-4-2-5-9-19)20-10-6-3-7-11-20;1-4-7-15-19(16-8-5-2,17-9-6-3)18-13-11-10-12-14-18/h2-15H,16H2,1H3;10-14H,4-9,15-17H2,1-3H3/q+1;-1
